US06929896B2
3.9 g of crude tetramethylammonium phenylsulfate prepared according to the method of Example 1.2 are dissolved in 10 ml of water. To the solution 6.8 g of the crude di(4-tert-amylphenyl)iodonium hydrogensulfate, dissolved in 5 ml of methanol, are added. The mixture is stirred for 3 hours at room temperature. 10 ml of methylene chloride are added to the solution and stirred for additonal 2 hours at room temperature. The product is extracted with methylene chloride and the organic layer is washed with water, dried over MgSO4, and concentrated. 200 ml of tert-butyl methyl ether are added to the residue, affording a white solid. After the suspension is stirred at 60° C. for 15 min, the precipitate is filtered off and washed with tert-butyl methyl ether, yielding 4.37 g of di(4-tert-amylphenyl)iodonium phenylsulfate as a white solid, mp. 122-125° C. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 0.64 (t, 6H), 1.23 (s, 12H), 1.61 (q, 4H), 7.07 (t, 1H), 7.21-7.29 (m, 4H), 7.34 (d, 4H), 7.82 (d, 4H).

reactant | tetramethylammonium phenylsulfate | 3.9 g | C1(=CC=CC=C1)OS(=O)(=O)[O-].C[N+](C)(C)C
reactant | di(4-tert-amylphenyl)iodonium hydrogensulfate | 6.8 g | S(=O)(=O)(O)[O-].C(C)(C)(CC)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)CC
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | di(4-tert-amylphenyl)iodonium phenylsulfate | 4.37 g | C1(=CC=CC=C1)OS(=O)(=O)[O-].C(C)(C)(CC)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)CC | InChI=1S/C22H30I.C6H6O4S/c1-7-21(3,4)17-9-13-19(14-10-17)23-20-15-11-18(12-16-20)22(5,6)8-2;7-11(8,9)10-6-4-2-1-3-5-6/h9-16H,7-8H2,1-6H3;1-5H,(H,7,8,9)/q+1;/p-1
